US07544637B2
1.6: 2-Fluoro-6-hydroxybenzonitrile (analogous to WO 99/14187)
151 g (1 mol) of 2-fluoro-6-methoxybenzonitrile and 346.5 g (3 mol) of pyridinium hydrochloride were introduced into a 2 l flask and then slowly heated to 190° C. under a protective gas atmosphere and then stirred at this temperature for 5 h. The mixture was cooled by slowly stirring to room temperature overnight. Then 1000 ml of water were added, and the mixture was heated to 80° C. After adding 1000 ml of methyl tert.-butyl ether, the phases were separated and the aqueous phase was back-extracted twice with 500 ml of methyl tert.-butyl ether. The combined methyl tert.-butyl ether phases were washed once with 800 ml of 10% strength aqueous sodium hydroxide solution and once with 400 ml of water. The two aqueous phases were combined, adjusted to pH 2 with concentrated hydrochloric acid and washed three times with 500 ml of methylene chloride. Then, the combined organic phases were washed once with 10% strength hydrochloric acid. The organic phase was dried over sodium sulfate. Finally, the solvent was distilled off in vacuo. Yield: 120 g (87% of theory) of the desired product of purity >99% according to GC. 1H NMR (in D6 dimethylsulfoxide): δ=6.85 ppm (m, 2H, arom. H), 7.55 ppm (q, 1H, arom. H), 11.7 ppm (s, 1H, OH).

reactant | 2-fluoro-6-methoxybenzonitrile | 1 mol, 151 g | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
reactant | pyridinium hydrochloride | 3 mol, 346.5 g | Cl.[NH+]1=CC=CC=C1
reactant | water | 1000 ml | O | H2O
solvent | methyl tert.-butyl ether | 1000 ml | C(C)(C)(C)OC | C5H12O
product | 2-Fluoro-6-hydroxybenzonitrile | FC1=C(C#N)C(=CC=C1)O | C7H4FNO
